US09056844B2
Preparation 14: Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-(acetylamino)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate
Acetyl chloride (334.31 μL, 368.75 mg, 4.70 mmol) in dichloromethane (5 mL) is added to a stirring, cooled solution of di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (2.30 g, 3.91 mmol) and triethylamine (709.32 μL, 514.97 mg, 5.09 mmol) in dichloromethane (19.57 mL) at 0° C. then stirred. After 90 minutes, dilute with water and extract with dichloromethane (3×25 mL). The combined organic extracts are dried over magnesium sulfate, filtered, and concentrated under reduced pressure giving the title compound (2.40 g, 3.81 mmol, 97%): MS (m/z): 653 (M+1).

reactant | Acetyl chloride | 4.70 mmol, 334.31 μL, 368.75 mg | C(C)(=O)Cl | C2H3ClO
reactant | di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-amino-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 3.91 mmol, 2.30 g | N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H40Cl2N2O7
reactant | triethylamine | 5.09 mmol, 709.32 μL, 514.97 mg | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 19.57 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Di-tert-butyl (1S,2R,3R,4S,5R,6S)-4-(acetylamino)-2-[(tert-butoxycarbonyl)amino]-3-[(3,4-dichlorobenzyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 3.81 mmol, 2.40 g, 97% | C(C)(=O)N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OC(C)(C)C)(C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C30H42Cl2N2O8
